US08008307B2
Step f: (1S,2S,4S)-4-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}methyl)-2-(hydroxymethyl)cyclopentanol
N-[(1S)-2,3-Dihydro-1H-inden-1-yl]-6-{[(4aS,6S,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]methyl}pyrimidin-4-amine (0.280 g, 0.61 mmol) was dissolved in THF (2 mL), water (2 mL) and AcOH (6 mL, 0.106 mmol) were added. The mixture was stirred under an atmosphere of argon for 60 h. The mixture was concentrated under reduced pressure and the residue was purified via silica gel chromatography eluting with a gradient of 0 to 10% MeOH in DCM to afford the title compound (0.190 g, 91%). LC/MS: Rt=1.29 min, ES+ 340 (AA standard).

reactant | N-[(1S)-2,3-Dihydro-1H-inden-1-yl]-6-{[(4aS,6S,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]methyl}pyrimidin-4-amine | 0.61 mmol, 0.280 g | [C@@H]1(CCC2=CC=CC=C12)NC1=NC=NC(=C1)C[C@@H]1C[C@@H]2[C@@H](OC(OC2)C2=CC=C(C=C2)OC)C1 | C28H31N3O3
reactant | water | 2 mL | O | H2O
reactant | AcOH | 0.106 mmol, 6 mL | CC(=O)O | C2H4O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (1S,2S,4S)-4-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}methyl)-2-(hydroxymethyl)cyclopentanol | 0.190 g, 91% | [C@@H]1(CCC2=CC=CC=C12)NC1=CC(=NC=N1)C[C@@H]1C[C@H]([C@H](C1)O)CO | C20H25N3O2
